US07572808B2
Preparation of 7-(4-chlorophenyl)-2-((2-methoxy-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a solution of 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (161.4 mg, 0.50 mmol) and 3-(chloromethyl)-2-methoxy-6-(trifluoromethyl)pyridine (169 mg, 0.75 mmol) in anhydrous DMF (3.0 mL) at room temperature was added anhydrous K2CO3 (138 mg, 1.0 mmol). The resulting yellow suspension was stirred at 70° C. for 3 h. Analysis by HPLC/MS indicated that starting 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one had been consumed. After cooling to room temperature, the reaction mixture was diluted with water and extracted with EtOAc (20 mL×2). The combined EtOAc extracts were washed with water, then saturated aqueous NaCl, dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude product was purified using a silica gel cartridge (12 g) eluted with a gradient of ethyl acetate (30-100%) in hexanes to afford 210 mg (82%) of the title compound as a yellow solid. HPLC/MS: retention time=3.11 min, [M+H]+=512.2.

reactant | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.50 mmol, 161.4 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(NN2)=O)C2=CC=NC=C2 | C17H11ClN4O
reactant | 3-(chloromethyl)-2-methoxy-6-(trifluoromethyl)pyridine | 0.75 mmol, 169 mg | ClCC=1C(=NC(=CC1)C(F)(F)F)OC | C8H7ClF3NO
reactant | K2CO3 | 1.0 mmol, 138 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 7-(4-chlorophenyl)-2-((2-methoxy-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 210 mg, 82% | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)OC)=O)C2=CC=NC=C2 | C25H17ClF3N5O2
